data/oMe_Silver.jsonl
{"reaction_id": "NR-334_1-c1ccc(C(F)(F)F)cc1_2-C1CCCCC1_3-c1ccc(C)cc1_4-CCC","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#Cc1ccc(C(F)(F)F)cc1","OC(C1CCCCC1)(c1ccc(C)cc1)CCC"],"products_smiles": ["C(=O)(NC(C1CCCCC1)(c1ccc(C)cc1)CCC)c1ccc(C(F)(F)F)cc1"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C1CCCCC1)(c1ccc(C)cc1)CCC","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C1CCCCC1)(c1ccc(C)cc1)CCC","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(C1CCCCC1)(c1ccc(C)cc1)CCC)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(C1CCCCC1)(c1ccc(C)cc1)CCC)([OH2+])c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(C1CCCCC1)(c1ccc(C)cc1)CCC)(O)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(C1CCCCC1)(c1ccc(C)cc1)CCC)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
{"reaction_id": "NR-139_1-C_2-CCCC_3-c1cnc2ccccc2c1_4-c1ccc(C#N)cc1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1ccc(C#N)cc1)(C)(CCCC)(c1cnc2ccccc2c1)"],"products_smiles": ["C(C)(CCCC)(c1cnc2ccccc2c1)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1ccc(C#N)cc1)(C)(CCCC)(c1cnc2ccccc2c1)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](C)(CCCC)(c1cnc2ccccc2c1)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(C)(CCCC)(c1cnc2ccccc2c1)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
